US05436359
2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methylbenzoquinone (3.38 g, 10 mmol) was dissolved in dichloromethane (50 ml). Pyridine (1 ml) followed by acetyl chloride (0.8 ml) was added with stirring under ice-cooling, and the mixture was stirred for 1 hour. Water (5 ml) was added to the reaction mixture which was then stirred for 20 minutes. Then sodium hydrosulfite (4 g) was added, and the mixture was stirred at room temperature for 2 hours. The dichloromethane layer was separated, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in dichloromethane (50 ml), and tert-butylchlorodiphenylsilane (5.5 g, 20 mmol) and imidazole (1.36 g, 20 mmol) were added. The mixture was stirred at 43° C. for 16 hours under a stream of nitrogen. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain crude 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol. The concentrate was dissolved in dimethylformamide (15 ml). Sulfur trioxide-pyridine complex (3.2 g, 20 mmol) was added, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in methanol (40 ml), and 1N sodium hydroxide solution (60 ml) was added. The mixture was allowed to react for 16 hours. Methanol was distilled off under reduced pressure, and the residue was extracted with ether. The aqueous layer was subjected to Amberlite (trade mark) XAD-II column chromatography and eluted with water followed by 50% ethanol/water. The desired fraction was concentrated and lyophilized to obtain the desired compound (2.8 g).

reactant | 2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methylbenzoquinone | 10 mmol, 3.38 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCCO)=O | C19H30O5
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrosulfite | 4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tert-butylchlorodiphenylsilane | 20 mmol, 5.5 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 20 mmol, 1.36 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Water | 5 ml | O | H2O
solvent | Pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol | C(C)(=O)OCCCCCCCCCCC1=C(C(=C(C(=C1O)OC)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C37H52O6Si
